US07220856B2
Preparation of 4-(7-Chloro-4-quinolinyl)-N-(3-hydroxy-3-methylcycloheptyl)-1-piperazinecarboxamide
To a stirred solution of 4-(7-chloro-4-quinolinyl)-N-(3-oxocycloheptyl)-1-piperazinecarboxamide (8 mg, 0.02 mmol) in THF (3 mL) was added a solution of MeMgBr (3M, 0.1 mL) at 0° C. After 5 h at 0° C., the reaction mixture was quenched with MeOH and Na2CO3 (sat. 50 mL). The reaction mixture was extracted with CH2Cl2, washed with brine, and dried over Na2SO4. Concentration in vacuo followed by preparative TLC gave the title product. LC-MS: 401 (M++1). 1H NMR (CDCl3) δ 8.78 (d, 1H), 8.05 (s, 1H), 7.95 (d, 1H), 7.45 (m, 1H), 6.85 (d, 1H), 5.75 (d, 1H), 4.45 (d, 1H), 4.05 (m, 1H), 3.65 (m, 4H), 3.20 (m, 4H), 1.55–1.95 (m, 10H), 1.35 (s, 3H).

reactant | 4-(7-chloro-4-quinolinyl)-N-(3-oxocycloheptyl)-1-piperazinecarboxamide | 0.02 mmol, 8 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1CC(CCCC1)=O | C21H25ClN4O2
reactant | MeMgBr | 3M, 0.1 mL | C[Mg+].[Br-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-(7-Chloro-4-quinolinyl)-N-(3-hydroxy-3-methylcycloheptyl)-1-piperazinecarboxamide | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1CC(CCCC1)(C)O | C22H29ClN4O2
